US08110580B2
Thieno[3,2-b]pyridine
Dissolve 7-bromo-thieno[3,2-b]pyridine (3.69 g, 17 mmol) in dry THF (20 mL) and cool to −78° C. Add n-BuLi (1.6 M in hexane, 21.2 mL, 34 mmol) slowly to the mixture at −78° C. and stir at −78° C. for 20 min. Add MeOH/H2O=1/1 (20 mL) and stir at room temperature for 1 h. Extract the reaction mixture with CH2Cl2. Wash the organic portion with saturated NaCl solution, dry over Na2SO4, and evaporate. Purify the resulting residue using silica gel chromatography, eluting with 100% hexane to hexane:ethyl acetate=10:1 to give the title compound (1.44 g, 62%). ES/MS m/z 136 (M+1)+.

reactant | 7-bromo-thieno[3,2-b]pyridine | 17 mmol, 3.69 g | BrC1=C2C(=NC=C1)C=CS2 | C7H4BrNS
reactant | n-BuLi | 34 mmol, 1.6 M, 21.2 mL | [Li]CCCC
reactant | MeOH H2O | CO.O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Thieno[3,2-b]pyridine | 1.44 g, 62% | S1C=CC2=NC=CC=C21 | C7H5NS
